US08802673B2
To a stirred solution of (S)-2-[4-(4-chloro-phenylamino)-phenyl]-morpholine-4-carboxylic acid tert-butyl ester (60 mg) in DMF (2 ml) was added sodium hydride (6.2 mg) and stirring was continued at room temperature for 15 min. Iodomethane (24.3 mg) was then added dropwise. The reaction mixture was stirred at room temperature for 1 h. TLC at t=1 h showed the reaction was incomplete with some starting material remaining A second portion of sodium hydride (6.2 mg) was added. After stirring at room temperature for 15 min, iodomethane (24.3 mg) was added. Stirring was continued for a further hour. TLC then showed the reaction was complete. The reaction mixture was poured into sat. aq. NaCl and extracted twice with EtOAc. The combined organic layers were dried over Na2SO4 and concentrated in vacuo. The crude material was purified by flash column chromatography (silica gel; gradient: 0% to 50% EtOAc in heptane) to afford (S)-2-{4-[(4-chloro-phenyl)-methyl-amino]-phenyl}-morpholine-4-carboxylic acid tert-butyl ester (49 mg, 79%) as a colourless gum. MS (ISP): 405.4 ([{37Cl}M+H]+), 403.4 ([{35Cl}M+H]+).

reactant | (S)-2-[4-(4-chloro-phenylamino)-phenyl]-morpholine-4-carboxylic acid tert-butyl ester | 60 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C1=CC=C(C=C1)NC1=CC=C(C=C1)Cl | C21H25ClN2O3
reactant | sodium hydride | 6.2 mg | [H-].[Na+]
reactant | Iodomethane | 24.3 mg | IC | CH3I
reactant | sodium hydride | 6.2 mg | [H-].[Na+]
reactant | iodomethane | 24.3 mg | IC | CH3I
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (S)-2-{4-[(4-chloro-phenyl)-methyl-amino]-phenyl}-morpholine-4-carboxylic acid tert-butyl ester | 49 mg, 79% | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C1=CC=C(C=C1)N(C)C1=CC=C(C=C1)Cl | C22H27ClN2O3
